* C:\Users\tomi\Github\obsidian_facu\Facu\Circuitos Electronicos I\TP 1\Draft1.asc
XU1 N003 N005 N006 TMBT3904
XU2 N002 N004 N006 TMBT3904
XU3 N006 N007 N009 TMBT3904
R1 N009 N010 10k
V1 N008 0 4.4
V2 N007 N008 0 AC 0.025 0
V3 N010 0 -10
V4 N004 0 SINE(0.01 0.024 1001 0 0 0 1000)
V5 N005 0 SINE(0 0.025 1001 0 0 0 1000) AC 0.025 10
R2 N001 N002 10k
R3 N001 N003 10k
V6 N001 0 20
.tran 0.01
.lib Contrib/Toshiba/BJT/TMBT3904_enc.lib
.backanno
.end
